US04980349
b)Preparation of 5-amino-2,2',4'-trichlorobenzophenone
7.5 g of 2,2',4'-trichloro-5-nitrobenzophenone in 100 ml of ethyl acetate are hydrogenated at atmospheric pressure and at ambient temperature in the presence of palladinized charcoal.

reactant | 2,2',4'-trichloro-5-nitrobenzophenone | 7.5 g | ClC1=C(C(=O)C2=C(C=C(C=C2)Cl)Cl)C=C(C=C1)[N+](=O)[O-] | C13H6Cl3NO3
reactant | charcoal | C | CH4
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 5-amino-2,2',4'-trichlorobenzophenone | NC=1C=CC(=C(C(=O)C2=C(C=C(C=C2)Cl)Cl)C1)Cl | C13H8Cl3NO
